US05274089
N-[3-(Dimethylamino)propyl]-3-methoxyestra-1,3,5(10)- trien-17β-amine
Formic acid (97-98%, 47.5 ml) is added dropwise to a cooled and stiffed mixture of estrone methyl ether (71.0 g) and 3-dimethylaminopropylamine (158 ml). The resulting mixture is heated in an oil bath (165°-175° C.) for 20 hours. The reaction is quenched in ice water (total volume 700 ml) and the resulting alkaline (pH--9) mixture is extracted twice with CH2Cl2. The combined extracts are washed with dilute aq. NAOH and with brine, dried (Na2SO4), filtered, and concentrated, Hexane (250 ml) is added to the residue and a white fluffy precipitate is filtered off, The solvent is removed, leaving a residual light brown oil which slowly crystallizes. A portion (20 g) of this material is chromatographed over silica gel (500 g) packed as a slurry in 7.5% of 10% NH4OH--CH3OH in CH2Cl2. The column is eluted (300 ml fractions) with the same solvent system. The desired material (about 14 g) is eluted in fractions 13-26 and pooled in CH2Cl2. As this solution stands at 20°-25°, crystals form. After two days, the crystals (4.803 g), mp 184°-192° C. with rapid heating, are collected by filtration. More crystals form in the filtrate and after 3 days these are collected. The compound can be recrystallized from methanol-acetone in the freezer, giving the second title compound as crystals, mp 184°-186° C. decomposition (dec) with bubbling.

reactant | estrone methyl ether | 71.0 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CCC4=C3C=CC(=C4)OC | C19H24O2
reactant | 3-dimethylaminopropylamine | 158 ml | CN(CCCN)C | C5H14N2
solvent | Formic acid | 47.5 ml | C(=O)O | CH2O2
product | N-[3-(Dimethylamino)propyl]-3-methoxyestra-1,3,5(10)- trien-17β-amine | CN(CCCN[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)C | C24H38N2O
